2106-10-04 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Acute Pancreatitis
   24 Hour Events:
   - increasing O2 requirement overnight.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-10-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-3**] 09:47 PM
   Lorazepam (Ativan) - [**2106-10-4**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-4**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 73 (66 - 102) bpm
   BP: 169/103(129) {131/83(104) - 173/105(129)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,557 mL
                                                                  2,003 mL
   PO:
             TF:
   IVF:
                                                                  1,557 mL
                                                                  2,003 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    800 mL
   Urine:
                                                                  1,000 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,357 mL
                                                                  1,203 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,501 (67 - 1,501) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 9 cmH2O
   SpO2: 96%
   ABG: 7.35/35/168/17/-5
   Ve: 12.8 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No acute distress, on BipAP
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Bowel sounds present, Tender: mid epi
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): se;f/place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   15.1 g/dL
   152 K/uL
   151 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   15 mg/dL
   115 mEq/L
   41.2 %
   15.2 K/uL
        [image002.jpg] AG: 8
                             [**2106-10-3**]  07:05 PM
                             [**2106-10-3**]  07:29 PM
                             [**2106-10-4**]  12:23 AM
                             [**2106-10-4**]  03:42 AM
                             [**2106-10-4**]  04:13 AM
   WBC
   13.6
   15.2
   Hct
   44.7
   41.2
   Plt
   185
   152
   Cr
   1.1
   1.0
   TropT
   <0.01
   TCO2
   20
   20
   20
   Glucose
   195
   151
   Other labs: PT / PTT / INR:13.3/21.9/1.1, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:105/62, Alk Phos / T Bili:37/0.7,
   Differential-Neuts:91.1 %, Lymph:4.4 %, Mono:3.9 %, Eos:0.5 %, Lactic
   Acid:1.8 mmol/L, LDH:349 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   CXR [**10-4**]: improving aeration on bipap, small right pleural effusion
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse admitted with acute
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis), AG met acidosis
   [**1-2**] lactate and ketone.
   Pancreatitis: likely EtOH related, stranding seen on CT scan att OSH
   but no evidence of abscess/pseudocyst.. Notably he has nl
   triglycerides.
   - fluid resus with LR and repletion of lytes.
   - NPO for now
   - no role for abx (WBC likely [**1-2**] pancreatitis). F/u blood clx.
   - pain control
   - RUQ U/S to R/o gallstones
   - tight SSI
   - GI team to follow.
   Anion Gap Acidosis: ketoacidois and lactic acidosis likely a result of
   hypo-perfusion and decreased PO intake in the setting of pancreatitis.
   Both now normalizing.
   - cont to follow, supportive fluid resus using LR as choice of fluids
   to avoid hyperchloremia.
   HTN: tolerate SBP 140-160 mmHg
   - wean labetalol gtt as tolerated.
   Renal failure: likely dehydration, now resolving with IV hydration.
   Hypoxemia: likely [**1-2**] appropriate volume resus in the setting of
   pancreatitis complicated by splinting and atelectasis. Also with a
   2ndry resp acidosis initially which improved with BiPAP.
   - supportive BiPAP and wean to supportive O2 ([**9-5**] with 40%). OOB->
   chair (repeat ABG)
   EtOH withdrawl: will follow closely for symptom development and work to
   control symptoms with combination therapy (benzos, haldol and
   potentially labet/clonidine as needed)
   - monitor symptoms (CIWA)
   - aspiration precautions
   140 mEq/L
   - thiamine and folate
   ICU Care
   Glycemic Control:  Regular insulin sliding scale, NPO for now given
   pancreatitis
   Lines:
   20 Gauge - [**2106-10-3**] 07:00 PM
   18 Gauge - [**2106-10-3**] 07:29 PM
   Arterial Line - [**2106-10-3**] 09:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will meet with wife.
   [**Name (NI) 129**] status: FULL
   Disposition : ICU
   Total time spent: 40 min

2106-10-04 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2106-10-3**] 09:47 PM
   - A-line placed
   - BIPAP'ed overnight, AM ABG 7.35/35/168/20
   - O/N continued to receive IVF at 250cc, switched to LR for
   hyperchloremia
   - Score 3 on admission (ransons)
   - AG closed, Bicarb 20->17 with coincident hyperchloremia, pH 7.35
   - Cr trending down, 1.0, WBC trending down
   - LDH trending up 221 -> 349, AST/ALT trending down, bili stable
   - Labetolol weaned off then back on at low dose.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-10-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-3**] 09:47 PM
   Lorazepam (Ativan) - [**2106-10-4**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-4**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 73 (66 - 102) bpm
   BP: 169/103(129) {131/83(104) - 173/105(129)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,557 mL
                                                                  2,039 mL
   PO:
             TF:
   IVF:
                                                                  1,557 mL
                                                                  2,039 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    800 mL
   Urine:
                                                                  1,000 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,357 mL
                                                                  1,239 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,501 (67 - 1,501) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 9 cmH2O
   SpO2: 96%
   ABG: 7.35/35/168/17/-5
   Ve: 12.8 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General: Obese male, NAD. Lethargic but arousable.
   HEENT: NC/AT, sclera anicteric, MMM.
   Chest: CTA bilat, slightly poor effort
   Heart: RRR, no M/R/G appreciated
   Abdomen: appears slightly distended, soft, tender with guarding
   (?voluntary) in epigastrium.
   Back: lower back with diffuse erythema, some ?excoriation.
   Extrem: no edema
   Neurologic: Lethargic but arousable, answers questions, follows
   commands, but falls asleep easily. Strength grossly preserved.
   Labs / Radiology
   152 K/uL
   15.1 g/dL
   151 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   15 mg/dL
   115 mEq/L
   140 mEq/L
   41.2 %
   15.2 K/uL
        [image002.jpg]
                             [**2106-10-3**]  07:05 PM
                             [**2106-10-3**]  07:29 PM
                             [**2106-10-4**]  12:23 AM
                             [**2106-10-4**]  03:42 AM
                             [**2106-10-4**]  04:13 AM
   WBC
   13.6
   15.2
   Hct
   44.7
   41.2
   Plt
   185
   152
   Cr
   1.1
   1.0
   TropT
   <0.01
   TCO2
   20
   20
   20
   Glucose
   195
   151
   Other labs: PT / PTT / INR:13.3/21.9/1.1, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:105/62, Alk Phos / T Bili:37/0.7,
   Differential-Neuts:91.1 %, Lymph:4.4 %, Mono:3.9 %, Eos:0.5 %, Lactic
   Acid:1.8 mmol/L, LDH:349 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   MICRO: blood cultures x 1 pending
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely  from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   severe hypertension.
   #) Pancreatitis - [**Last Name (un) 1840**] Score 3 on admission. Likely related to EtOH.
   Other possibilities include gallstones (negative cholelithiasis on Fast
   U/S in ED), hypertriglyceridemia (history of this; level pending).
   - RUQ today to further characterize ducts, no elevation in bili at this
   time to suggest obstructing stone.
   - f/u triglycerides.
   - PIV x2
   - NS/LR Fluid Resus (will decrease to 125/h)
   - No current role for antibiotics.
   - Continue to have surgery following.
   - NPO including meds for now, aim for early PO intake with NGT or POs
   - Low threshold for insulin gtt
   #) Hypoxia - DDx includes Acute Lung Injury/ARDS from Pancreatitis,
   volume overload, splinting due to pain and large abdomen. Given lack of
   infiltrates and improvement CXR with biPAP, likely hypoventilation.
   - FM this morning, back to NIPPV if needed
   - CXR in AM.
   #) Acidemia
 initial component of gap acidosis and respiratory
   acidosis on admission, gap now closing. Suspect related to elevated OSH
   lactate that is improving with fluids.  Initial respiratory acidosis
   likely [**1-2**] hypoventilation from pain, inc abdomen size, ventilating
   better with BIPAP.
   - PM ABG and lytes
   #) Hypertension.  Severe hypertensive urgency at outside hospital and
   ED, improved on nipride gtt started in ED, then switched to labetalol,
   now on just small doses.
   - prn labetolol gtt, no PO meds for now.
   - Arterial-line in place to transduce pressures
   #) EtOH Abuse / Concern for Withdrawal. Last drink [**10-1**] or [**10-2**].
   - Lorazepam IV CIWA Scale
   - Thiamine, Folate daily
   - Will attempt IV haldol for agitation related symptomatology; consider
   clonidine or labetalol for hemodynamic changes.
   #) Elevated Creatinine
   - recheck lytes this afternoon
   - Creatinine has normalized now in MICU
   #) Altered Mental Status.  Likely medication vs. medical delirium.
   Replete thiamine, folate.
   - Monitor status with prn lorazepam, haldol
   #  Hypocalcemia. Likely related to pancreatitis.
   -          Replete IV for now. Follow ionized calciums.
   # Leukocytosis.  Likely stress response.  Continue to monitor, CIS.
   F/u blood cultures.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS; add gtt if glucose poorly controlled.
   Lines:
   20 Gauge - [**2106-10-3**] 07:00 PM
   18 Gauge - [**2106-10-3**] 07:29 PM
   Arterial Line - [**2106-10-3**] 09:47 PM
   Prophylaxis:
   DVT:  HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) 1388**] [**Telephone/Fax (1) 1841**]
   [**Name2 (NI) 129**] status: Full
   Disposition: ICU

2106-10-05 08:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RUQ U/S with cholelithiasis, bile ducts WNL.
   - Haldol added to regimen
   - Persistently hypertensive, metoprolol 5 mg x 1, labetalol gtt back
   on.
   - Phos 1.2 on PM check, repleted.
   - Total Ativan: ?14 mg over last 24hrs, ?5 haldol.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 1 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2106-10-4**] 12:09 PM
   Pantoprazole (Protonix) - [**2106-10-4**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-5**] 12:00 AM
   Morphine Sulfate - [**2106-10-5**] 04:04 AM
   Lorazepam (Ativan) - [**2106-10-5**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-5**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 74 (72 - 87) bpm
   BP: 175/163(169) {134/77(98) - 191/163(169)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,489 mL
                                                                  1,198 mL
   PO:
             TF:
   IVF:
                                                                  4,489 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    600 mL
   Urine:
                                                                  1,900 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,589 mL
                                                                    598 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.43/32/67/20/-1
   PaO2 / FiO2: 168
   Physical Examination
   NAD, A/Ox2, did not know date, EOMi, PERL bilaterally, somewhat
   somnolent. Lungs with crackles bilaterally.  No murmurs appreciated.
   No spiders or palmar erythema.  Abd distended, non tender, tense,
   likely fluid wave.  No sacral edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   115 K/uL
   13.7 g/dL
   145 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.4 mEq/L
   21 mg/dL
   116 mEq/L
   143 mEq/L
   38.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2106-10-3**]  07:05 PM
                             [**2106-10-3**]  07:29 PM
                             [**2106-10-4**]  12:23 AM
                             [**2106-10-4**]  03:42 AM
                             [**2106-10-4**]  04:13 AM
                             [**2106-10-4**]  10:30 AM
                             [**2106-10-4**]  04:53 PM
                             [**2106-10-4**]  05:06 PM
                             [**2106-10-5**]  03:54 AM
                             [**2106-10-5**]  07:29 AM
   WBC
   13.6
   15.2
   14.6
   Hct
   44.7
   41.2
   38.7
   Plt
   185
   152
   115
   Cr
   1.1
   1.0
   1.1
   1.0
   TropT
   <0.01
   TCO2
   20
   20
   20
   22
   22
   22
   Glucose
   195
   151
   157
   145
   Other labs: PT / PTT / INR:13.3/21.9/1.1, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:71/48, Alk Phos / T Bili:31/0.9,
   Differential-Neuts:87.0 %, Lymph:6.8 %, Mono:5.2 %, Eos:0.9 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:439 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   No new culture data
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely  from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   severe hypertension.
   # pancreatitis - [**Last Name (un) 1840**] Score 3 on admit, [**Last Name (un) 1840**] 4 now 48hrs post
   presentation (>10%hct drop, bun >5pt change, ca<8, and fluid
   sequestration to abdomen), clinically suboptimal prognosis.  Againe,
   likely EtOH, no gallstones, no elevated triglycerides.  Has been
   aggressively IVF repleted,
   - strict NPO
   - IVF decrease to 80cc/hr (cxr with pulmonary edema, ABG hypoxia)
   - insulin, keep glucoses <150
   # hypoxia
 fluid overload [**1-2**] resuscitation, ARDs possible,
   splinting.
   - decrease IVF
   - NIPPV prn
   - consent for intubation on chart
   - cxr am
   # ethanol withdrawal/hypertension
 given above, significant risk for
   withdrawal vs. delirium tremens in this time phase, with concern for
   somnolence with Ativan administration.  Has been hypertensive past
   48hrs with intermittent agitation.
   - NPO, keep iv labetalol gtt
   - thiamine, folate
   - haldol prn for hallucinations, keep to minimum to optimize mental
   status
   - Ativan on ciwa scale, keep to minimum to optimize mental status
   #) Acidemia
 initial component of gap acidosis and respiratory
   acidosis on admission, gap now closing. Suspect related to elevated OSH
   lactate that is improving with fluids.  Initial respiratory acidosis
   likely [**1-2**] hypoventilation from pain, inc abdomen size, ventilating
   better with BIPAP.
   - PM ABG and lytes
   #) Hypertension.
   #) EtOH Abuse / Concern for Withdrawal. Last drink [**10-1**] or [**10-2**].
   - Lorazepam IV CIWA Scale
   - Thiamine, Folate daily
   - Will attempt IV haldol for agitation related symptomatology; consider
   clonidine or labetalol for hemodynamic changes.
   #) Elevated Creatinine
   - recheck lytes this afternoon
   - Creatinine has normalized now in MICU
   #) Altered Mental Status.  Likely medication vs. medical delirium.
   Replete thiamine, folate.
   - Monitor status with prn lorazepam, haldol
   #  Hypocalcemia. Likely related to pancreatitis.
   -          Replete IV for now. Follow ionized calciums.
   # Leukocytosis.  Likely stress response.  Continue to monitor, CIS.
   F/u blood cultures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-10-3**] 07:00 PM
   Arterial Line - [**2106-10-3**] 09:47 PM
   18 Gauge - [**2106-10-4**] 02:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-10-05 08:14:00 Physician Attending Progress Note
Chief Complaint:  Abd pain
   HPI: Acute pancreatitis, ETOH withdrawal
   24 Hour Events:
 ULTRASOUND abd: cholelithiasis, ducts within limits
   > Progressive decrease in mental status and increase in oxygen
   requirements.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 1 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2106-10-4**] 12:09 PM
   Pantoprazole (Protonix) - [**2106-10-4**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-5**] 12:00 AM
   Morphine Sulfate - [**2106-10-5**] 04:04 AM
   Lorazepam (Ativan) - [**2106-10-5**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-5**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 74 (72 - 87) bpm
   BP: 175/163(169) {134/77(98) - 191/163(169)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,489 mL
                                                                  1,200 mL
   PO:
             TF:
   IVF:
                                                                  4,489 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    600 mL
   Urine:
                                                                  1,900 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,589 mL
                                                                    600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.43/32/67/20/-1
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Expansion: Symmetric), (: ), (Breath Sounds:
   Crackles : bases bilateral with crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm  Neuro: A+) x name, moving all extremities.
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: all ext spontaneous,
   Labs / Radiology
   13.7 g/dL
   115 K/uL
   145 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.4 mEq/L
   21 mg/dL
   116 mEq/L
   143 mEq/L
   38.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2106-10-3**]  07:05 PM
                             [**2106-10-3**]  07:29 PM
                             [**2106-10-4**]  12:23 AM
                             [**2106-10-4**]  03:42 AM
                             [**2106-10-4**]  04:13 AM
                             [**2106-10-4**]  10:30 AM
                             [**2106-10-4**]  04:53 PM
                             [**2106-10-4**]  05:06 PM
                             [**2106-10-5**]  03:54 AM
                             [**2106-10-5**]  07:29 AM
   WBC
   13.6
   15.2
   14.6
   Hct
   44.7
   41.2
   38.7
   Plt
   185
   152
   115
   Cr
   1.1
   1.0
   1.1
   1.0
   TropT
   <0.01
   TCO2
   20
   20
   20
   22
   22
   22
   Glucose
   195
   151
   157
   145
   Other labs: PT / PTT / INR:13.3/21.9/1.1, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:71/48, Alk Phos / T Bili:31/0.9,
   Differential-Neuts:87.0 %, Lymph:6.8 %, Mono:5.2 %, Eos:0.9 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:439 IU/L, Ca++:6.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse admitted with acute
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis initially. His
   hypoxemia has progressed over the past 24hrs  likely in the setting of
   his progressive vol overload.
    >Pancreatitis: likely EtOH related, stranding seen on CT scan att OSH
   but no evidence of abscess/pseudocyst.. Notably he has nl
   triglycerides.
   - fluid resus with LR and repletion of lytes (decreasing fluids given
   vol overload).
   - NPO for now
   - no role for abx (WBC likely [**1-2**] pancreatitis). F/u blood clx.
   - pain control
   - tight SSI
   >Anion Gap Acidosis: ketoacidois and lactic acidosis likely a result of
   hypo-perfusion and decreased PO intake in the setting of pancreatitis.
   Both now normalizing.
   - cont to follow, supportive fluid resus using LR as choice of fluids
   to avoid hyperchloremia.
   - recheck lactate
   >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated given inability to tolerate PO
   >Renal failure: likely dehydration but now volume overloaded
    >Hypoxemia: likely [**1-2**] appropriate volume resus in the setting of
   pancreatitis complicated by splinting and atelectasis now concerning
   for evolution into ARDS.  Concern for progressive hypoxemia, he is at
   high risk for ARDS [**1-2**] pancreatitis.
   - Will need CPAP trial today given increasingly volume overload and
   wean to supportive O2 ([**9-5**] with 40%).  [**Month (only) 11**] need gentle diuresis
   >EtOH withdrawl: will follow closely for symptom development and work
   to control symptoms with combination therapy (benzos, haldol and
   potentially labet/clonidine as needed) will hold narcotics in excess
   until withdrawal completed
   - monitor symptoms (CIWA)
   - aspiration precautions
   - thiamine and folate
   - Check QTc
   other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO (pancreatitis)
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-3**] 07:00 PM
   Arterial Line - [**2106-10-3**] 09:47 PM
   18 Gauge - [**2106-10-4**] 02:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  [**Month (only) 11**] need short term intubation if
   ventilation/ oxygenation worsens until ETOH withdrawal completes
   Code status: FULL
   Disposition : ICU
   Total time spent: 40 mins

2106-10-06 07:36:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
 PAN CULTURE - At [**2106-10-5**] 01:18 PM
   - continues to withdraw with high benzo and haldol requirements (total
   ~28 mg IV Ativan, 5 mg IV haldol since 6 am yesterday).  Unable to get
   ECG thus far.
   - febrile to 100.2 axillary  --> got cultured
   - got lasix 20 x 2 with good effect
   - intermittently on BIPAP, but satting well on nasal cannula
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2106-10-5**] 03:19 PM
   Pantoprazole (Protonix) - [**2106-10-5**] 08:00 PM
   Furosemide (Lasix) - [**2106-10-5**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-5**] 10:34 PM
   Morphine Sulfate - [**2106-10-6**] 05:00 AM
   Lorazepam (Ativan) - [**2106-10-6**] 06:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-6**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 84 (67 - 95) bpm
   BP: 158/86(113) {112/62(80) - 183/144(148)} mmHg
   RR: 28 (22 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,786 mL
                                                                  1,183 mL
   PO:
             TF:
   IVF:
                                                                  2,786 mL
                                                                  1,183 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                    860 mL
   Urine:
                                                                  3,010 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 530 (371 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.38/36/103/21/-2
   Ve: 13.3 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General: Obese male. Tachypneic when lying down, some improvement with
   sitting up.
   HEENT: NC/AT, MMM.
   Chest: CTA bilat anterolaterally
   Heart: RRR, no M/R/G appreciated
   Abdomen: slightly distended (?worse), soft but slightly tense, tender
   diffusely.
   Extrem: 2 point soft restraints.
   Neurologic: Lethargic but arousable, not currently answering questions
   and minimally verbal, follows simple commands but not complex.
   Labs / Radiology
   116 K/uL
   12.7 g/dL
   111 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.2 mEq/L
   21 mg/dL
   116 mEq/L
   147 mEq/L
   35.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2106-10-4**]  05:06 PM
                             [**2106-10-5**]  03:54 AM
                             [**2106-10-5**]  07:29 AM
                             [**2106-10-5**]  11:45 AM
                             [**2106-10-5**]  01:33 PM
                             [**2106-10-5**]  04:16 PM
                             [**2106-10-5**]  07:10 PM
                             [**2106-10-5**]  09:50 PM
                             [**2106-10-6**]  06:19 AM
                             [**2106-10-6**]  06:29 AM
   WBC
   14.6
   13.1
   Hct
   38.7
   35.5
   Plt
   115
   116
   Cr
   1.0
   1.1
   TCO2
   22
   22
   22
   21
   23
   19
   22
   Glucose
   145
   111
   Other labs: PT / PTT / INR:13.3/21.9/1.1, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:71/48, Alk Phos / T Bili:31/0.9,
   Amylase / Lipase:/638, Differential-Neuts:87.0 %, Lymph:6.8 %, Mono:5.2
   %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:439 IU/L,
   Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: ABG 7.38/36/103
   Microbiology: bloods NGTD
   urine pending [**10-5**]
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   hypertension.
 PANCREATITIS, ACUTE   [**Last Name (un) 1840**] Score 3 on admit, [**Last Name (un) 1840**] 4 48hrs post
   presentation (>10%hct drop, bun >5pt change, ca<8, and fluid
   sequestration to abdomen), clinically suboptimal prognosis.   likely
   EtOH, no gallstones, no elevated triglycerides.  Has been aggressively
   IVF repleted.  Lipase significantly improved today to 103.
   - strict NPO
   - continue IVF (change to D5W given hypernatremia ~ 3L free water
   deficit
   - insulin, keep glucoses <150
   - trend calcium
   # hypoxia
 fluid overload [**1-2**] resuscitation, ARDS possible,
   splinting.
   - NIPPV prn
   - consent for intubation on chart
   - cxr qam
   - d/c morphine; try to minimize respiratory suppressants
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)  given
   above, significant risk for delirium tremens in this time phase (last
   drink [**10-1**] or [**10-2**]), Also  hypertensive and intermittently agitated.
   - NPO
   - thiamine, folate
   - haldol prn for hallucinations and agitation, keep to minimum to
   optimize mental status
   - Ativan on ciwa scale, keep to minimum to optimize mental status
   - BP control with labetalol
   # altered mental status
 likely from above, but note question of
   cirrhosis hx and possible contribution of encephalopathy to clinical
   picture.  Labs, exam, and wet read of U/S does not support chronic
   liver dz, but possible.  Ammonia 53, difficult to interpret.
   -          d/c morphine; minimize benzos as possible
   -          Consider NGT placement and lactulose (holding off for right
   now, as would interfere with bipap seal if this is needed today)
   -          Consider head CT if persists, though nonfocal exam and no
   clear risk factors for a bleed.
 HYPERTENSION
   -          IV labetalol gtt while NPO, now off but will restart given
   this AM hypertension.
   #  Hypernatremia. FW deficit ~ 3L; start D5W.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA). Temp spike to
   100.2 axillary yesterday.
   -          f/u cultures
   -          CXR without infiltrate.
   -          Consider reimaging of pancreas to evaluate for
   worsening/necrosis, though with improved lipase and not clear how would
   change his management.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-3**] 07:00 PM
   Arterial Line - [**2106-10-3**] 09:47 PM
   18 Gauge - [**2106-10-4**] 02:48 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-10-06 08:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Pancreatitis, ETOH withdrawal
   24 Hour Events:
 PAN CULTURE - At [**2106-10-5**] 01:18 PM
   > Conts to have high benzo (28 mg IV ativan and 5 mg of IV haldol)
   > Intermittent BiPAP
   > Gentle Diuresis overnight
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2106-10-5**] 03:19 PM
   Pantoprazole (Protonix) - [**2106-10-5**] 08:00 PM
   Furosemide (Lasix) - [**2106-10-5**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-5**] 10:34 PM
   Morphine Sulfate - [**2106-10-6**] 05:00 AM
   Lorazepam (Ativan) - [**2106-10-6**] 06:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-6**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 84 (67 - 95) bpm
   BP: 158/86(113) {112/62(80) - 183/144(148)} mmHg
   RR: 28 (22 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,786 mL
                                                                  1,243 mL
   PO:
             TF:
   IVF:
                                                                  2,786 mL
                                                                  1,243 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                    860 mL
   Urine:
                                                                  3,010 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 530 (371 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.38/36/103/24/-2
   Ve: 13.3 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Well nourished, mildly agitated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Neuro: not oriented , A+O x 0, moving all ext.
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Crackles : bases)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: diffusely (decreasing)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Oriented (to): name, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   149 mEq/L
   12.7 g/dL
   116 K/uL
   114 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   118 mEq/L
   35.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2106-10-4**]  05:06 PM
                             [**2106-10-5**]  03:54 AM
                             [**2106-10-5**]  07:29 AM
                             [**2106-10-5**]  11:45 AM
                             [**2106-10-5**]  01:33 PM
                             [**2106-10-5**]  04:16 PM
                             [**2106-10-5**]  07:10 PM
                             [**2106-10-5**]  09:50 PM
                             [**2106-10-6**]  06:19 AM
                             [**2106-10-6**]  06:29 AM
   WBC
   14.6
   13.1
   Hct
   38.7
   35.5
   Plt
   115
   116
   Cr
   1.0
   1.1
   1.1
   TCO2
   22
   22
   22
   21
   23
   19
   22
   Glucose
   145
   111
   114
   Other labs: PT / PTT / INR:13.3/21.9/1.1, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:71/48, Alk Phos / T Bili:31/0.9,
   Amylase / Lipase:/103, Differential-Neuts:87.0 %, Lymph:6.8 %, Mono:5.2
   %, Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:439 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL, NH3: 53.
   CXR [**10-6**]: improved pul vasc congestion
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse admitted with acute
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis ) which improved
   yesterday with diuresis
    >Pancreatitis: likely EtOH related, stranding seen on CT scan at OSH
   but no evidence of abscess/pseudocyst.. Notably he has nl
   triglycerides. Lipase values now normalized.
   - maintenance fluid resus with D5 (given hypernatremia) and repletion
   of lytes (decreasing fluids given vol overload) will need to follow Na
   closely
   - NPO for now
   - no role for abx (WBC likely [**1-2**] pancreatitis). F/u blood clx.
   - hold on opiates for now.
   - tight SSI
   > Hypernatremia: will need to increase his  free water repletion (D5),
   will calc the free water deficit
   >Fever: no new clx data, WBC stable, no new infiltrate, lipase
   normalizing. Cont to follow for now.
   >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated given inability to tolerate PO
   >Renal failure: likely dehydration but now volume overloaded
     >Hypoxemia: likely [**1-2**] appropriate volume resus in the setting of
   pancreatitis complicated by splinting and atelectasis now concerning
   for evolution into ARDS.  Concern for progressive hypoxemia, he is at
   high risk for ARDS [**1-2**] pancreatitis. He responded well to diuresis
   yesterday. Will hold today given rising serum sodium
   - Can use BiPAP intermittently if O2 requirement increases and gentle
   diuresis as needed (but following Na closely)
   >EtOH withdrawl/Altered MS:  will follow closely for symptom
   development and work to control symptoms with combination therapy
   (benzos, haldol and potentially labet/clonidine as needed) will D/c
   narcotics for now. Will try to prioritize haldol use today. Alternate
   explanations for MS include: metabolic (see hypernatremia) and possible
   hepatic encephalopathy. For now will defer NG tube as this seems most
   likely to be a presentation consistent with EtOH withdrawl. If no
   improvement may need NG tube for lactulose.
   - monitor symptoms (CIWA)
   - aspiration precautions: HOB elevation
   - thiamine and folate
   - Qtc 457 on [**10-6**] ECG
   other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-3**] 07:00 PM
   Arterial Line - [**2106-10-3**] 09:47 PM
   18 Gauge - [**2106-10-4**] 02:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  I am hopeful we will be able to tide him
   through ETOH withdrawal over next 24-48 hours and then decrease
   benzodiazepines until he awakens. BiPAP will be used on a standing
   basis for now.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2106-10-07 07:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2106-10-6**] 10:00 AM
   QTC .447
 NON-INVASIVE VENTILATION - START [**2106-10-6**] 11:35 AM
 NON-INVASIVE VENTILATION - STOP [**2106-10-7**] 01:00 AM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-10-6**] 09:00 AM
   Pantoprazole (Protonix) - [**2106-10-6**] 08:30 PM
   Haloperidol (Haldol) - [**2106-10-6**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-6**] 10:06 PM
   Lorazepam (Ativan) - [**2106-10-7**] 02:34 AM
   Labetalol - [**2106-10-7**] 05:14 AM
   Diazepam (Valium) - [**2106-10-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-7**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 79 (60 - 86) bpm
   BP: 177/108(134) {106/60(76) - 194/126(153)} mmHg
   RR: 28 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,537 mL
                                                                    513 mL
   PO:
             TF:
   IVF:
                                                                  4,537 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    420 mL
   Urine:
                                                                  2,330 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,207 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (478 - 524) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/29/84.[**Numeric Identifier 1132**]/20/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l) Parqadoxical
   respiration when laying flat.
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffuse
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Oriented (to):
   x1, Movement: moving all ext
   Labs / Radiology
   11.6 g/dL
   130 K/uL
   111 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   18 mg/dL
   114 mEq/L
   143 mEq/L
   32.1 %
   13.1 K/uL
        [image002.jpg]
                             [**2106-10-5**]  07:10 PM
                             [**2106-10-5**]  09:50 PM
                             [**2106-10-6**]  06:19 AM
                             [**2106-10-6**]  06:29 AM
                             [**2106-10-6**]  11:39 AM
                             [**2106-10-6**]  01:52 PM
                             [**2106-10-6**]  04:53 PM
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
   WBC
   13.1
   13.6
   13.1
   Hct
   35.5
   32.8
   32.1
   Plt
   116
   125
   130
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   19
   22
   21
   21
   20
   20
   Glucose
   111
   114
   161
   111
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:71/48, Alk Phos / T Bili:31/0.9,
   Amylase / Lipase:/103, Differential-Neuts:87.0 %, Lymph:6.8 %, Mono:5.2
   %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:439 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   CXR  [**10-7**] increasing vol overload.
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse admitted with acute
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis ) which improved
   yesterday with diuresis
    >Pancreatitis: likely EtOH related, stranding seen on CT scan at OSH
   but no evidence of abscess/pseudocyst.. Notably he has nl
   triglycerides. Lipase values now normalized.
   - maintenance fluid resus with D5 (given hypernatremia) and repletion
   of lytes (decreasing fluids given vol overload) will need to follow Na
   closely
   - NPO for now
   - no role for abx (WBC likely [**1-2**] pancreatitis). All Clx neg.
   - hold on opiates for now.
   - tight SSI
   > Hypernatremia: will need to increase his  free water repletion (D5),
   will calc the free water deficit
   >Fever: Conts low grade fevers, no new clx data, WBC stable, no new
   infiltrate on [**10-7**], lipase normalizing. Will empirically ocver for asp
   PNA with Vanco and Pip-Tazo (empiric for now x 48 hrs)
   - repeat LFTs
    >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated given inability to tolerate PO
    >Hypoxemia: likely [**1-2**] appropriate volume resus in the setting of
   pancreatitis complicated by splinting and atelectasis now concerning
   for evolution into ARDS.  Concern for progressive hypoxemia, he is at
   high risk for ARDS [**1-2**] pancreatitis. He responded well to diuresis
   yesterday and conts to respond well to BiPAP (marked improving
   oxygentation). Will hold today given rising serum sodium
   - Can use BiPAP intermittently if O2 requirement increases and gentle
   diuresis as needed (but following Na closely)
   - Trial diuresis (20 mg lasix ) with goal of negative 1L
   >EtOH withdrawl/Altered MS:  will follow closely for symptom
   development and work to control symptoms with combination therapy
   (benzos, haldol and potentially labet/clonidine as needed) will D/c
   narcotics for now. Will try to prioritize haldol use today. Alternate
   explanations for MS include: metabolic (see hypernatremia) and possible
   hepatic encephalopathy. For now will defer NG tube as this seems most
   likely to be a presentation consistent with EtOH withdrawl. If no
   improvement may need NG tube for lactulose.
   - monitor symptoms (CIWA)
   - aspiration precautions: HOB elevation
   - thiamine and folate
   - Qtc 474 on [**10-7**] ECG
   other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-10-3**] 09:47 PM
   20 Gauge - [**2106-10-7**] 02:22 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2106-10-07 08:01:00 Physician Resident Progress Note
Chief Complaint: acute pancreatitis
   24 Hour Events:
 EKG - At [**2106-10-6**] 10:00 AM
   QTC .447
 NON-INVASIVE VENTILATION - START [**2106-10-6**] 11:35 AM
 NON-INVASIVE VENTILATION - STOP [**2106-10-7**] 01:00 AM
   - [**10-6**] switched to bipap for tachypnea, then to facemask overnight
   - continues to withdraw with high benzo and haldol requirements: total
   6 mg IV haldol. 16 mg IV lorazepam, 10 mg IV diazepam.
   - intermittent agitation in bed - attempted valium
   - re-sited A-line over wire
   - BPs controlled with labetalol bolus, not gtt, due to poor iv access.
   2nd pIV placed overnight.
   - 1mg MR1 IV morphine overnight
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-10-6**] 09:00 AM
   Pantoprazole (Protonix) - [**2106-10-6**] 08:30 PM
   Haloperidol (Haldol) - [**2106-10-6**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-6**] 10:06 PM
   Lorazepam (Ativan) - [**2106-10-7**] 02:34 AM
   Labetalol - [**2106-10-7**] 05:14 AM
   Diazepam (Valium) - [**2106-10-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-7**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 82 (60 - 86) bpm
   BP: 189/101(135) {106/60(76) - 204/126(153)} mmHg
   RR: 38 (19 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,537 mL
                                                                    522 mL
   PO:
             TF:
   IVF:
                                                                  4,537 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    420 mL
   Urine:
                                                                  2,330 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,207 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (478 - 524) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/29/84.[**Numeric Identifier 1132**]/20/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General: Obese male. Tachypneic when lying down.
   HEENT: NC/AT, MMM.
   Chest: Most clear with some decrease at bases and end expiratory wheeze
   Heart: RRR, no M/R/G appreciated
   Abdomen: slightly distended ?tender, voluntary guarding but soft when
   relaxed..
   Extrem: 2 point soft restraints.
   Neurologic: Currently slightly agitated, not currently answering
   questions and minimally verbal.
   Labs / Radiology
   130 K/uL
   11.6 g/dL
   111 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   18 mg/dL
   114 mEq/L
   143 mEq/L
   32.1 %
   13.1 K/uL
        [image002.jpg]
                             [**2106-10-5**]  07:10 PM
                             [**2106-10-5**]  09:50 PM
                             [**2106-10-6**]  06:19 AM
                             [**2106-10-6**]  06:29 AM
                             [**2106-10-6**]  11:39 AM
                             [**2106-10-6**]  01:52 PM
                             [**2106-10-6**]  04:53 PM
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
   WBC
   13.1
   13.6
   13.1
   Hct
   35.5
   32.8
   32.1
   Plt
   116
   125
   130
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   19
   22
   21
   21
   20
   20
   Glucose
   111
   114
   161
   111
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:71/48, Alk Phos / T Bili:31/0.9,
   Amylase / Lipase:/103, Differential-Neuts:87.0 %, Lymph:6.8 %, Mono:5.2
   %, Eos:0.9 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:439 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: ABG: 7.44/29/84
   Microbiology: [**10-5**] urine culture negative
   [**10-5**], [**10-3**] bloods NGTD
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   hypertension.
 PANCREATITIS, ACUTE   [**Last Name (un) 1840**] Score 3 on admit, [**Last Name (un) 1840**] 4 48hrs post.
   likely EtOH.  Lipase significantly improved yesterday to 103.
   - strict NPO
   - d/c IVFs, as significantly overloaded
   - insulin, keep glucoses <150
   - pain control - ?having abdominal pain (has said
 to question
   this morning); will assess before admin narcotics.
   # HYPOXIA
 fluid overload [**1-2**] resuscitation, ARDS possible,
   splinting.
   - NIPPV prn
   - positioning key
 keep upright due to large abdominal size and
   splinting
   - cxr QAM
   - minimize morphine; try to minimize respiratory suppressants
   - Lasix 20 IV today and stop fluids; CXR more overloaded and
   significantly positive.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES). Last
   drink [**10-1**] or [**10-2**].  Also hypertensive and intermittently agitated.
   - NPO
   - thiamine, folate
   - haldol prn for hallucinations and agitation. Daily ECG.
   - Diazepam on ciwa scale, keep to minimum to optimize mental status
   - BP control with labetalol
   # altered mental status
 likely from above, but note question of
   cirrhosis hx and possible contribution of encephalopathy to clinical
   picture.  Labs, exam, and wet read of U/S does not support chronic
   liver dz, but possible.  Ammonia 53.
   -          Hold morphine; minimize benzos as possible
   -          Consider NGT placement and lactulose (holding off for right
   now, as would interfere with bipap seal if this is needed today)
   -          Consider head CT if persists, though nonfocal exam and no
   clear risk factors for a bleed.
 HYPERTENSION
   -          IV labetalol gtt while NPO.  Treatment of pain and
   withdrawal.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA). Temp spike to
   100.8 yesterday.
   -          f/u cultures
   -          CXR without infiltrate, but certainly at risk for
   aspiration.
   -          Consider reimaging of pancreas to evaluate for
   worsening/necrosis, could consider prophylactic antibiotic coverage if
   evidence of >30% necrosis of pancreas.  Otherwise, little role for
   prophylactic antibiotic therapy.
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-10-3**] 09:47 PM
   20 Gauge - [**2106-10-7**] 02:22 AM
   Consider PICC if access issues remain.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2106-10-08 07:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Pancreatitis, ETOH withdrawal
   24 Hour Events:
 EKG - At [**2106-10-7**] 08:22 AM
 NON-INVASIVE VENTILATION - START [**2106-10-7**] 11:30 AM
 NON-INVASIVE VENTILATION - STOP [**2106-10-7**] 08:05 PM
 NON-INVASIVE VENTILATION - START [**2106-10-7**] 11:00 PM
 ARTERIAL LINE - STOP [**2106-10-8**] 06:41 AM
 FEVER - 101.4
F - [**2106-10-7**] 11:00 AM
   > Head, Chest and Abd CT scan
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-7**] 04:47 PM
   Vancomycin - [**2106-10-7**] 10:09 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2106-10-7**] 07:40 AM
   Labetalol - [**2106-10-7**] 07:45 AM
   Morphine Sulfate - [**2106-10-7**] 08:15 AM
   Furosemide (Lasix) - [**2106-10-7**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-7**] 10:00 PM
   Diazepam (Valium) - [**2106-10-8**] 02:17 AM
   Haloperidol (Haldol) - [**2106-10-8**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-8**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.7
   HR: 82 (52 - 84) bpm
   BP: 167/95(113) {148/87(100) - 167/95(113)} mmHg
   RR: 33 (20 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,278 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                  2,278 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                  1,020 mL
   Urine:
                                                                  2,470 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -292 mL
                                                                   -946 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 556 (387 - 910) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.43/30/114/18/-2
   Ve: 12.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral (1/3 up)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x0, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   12.8 g/dL
   148 K/uL
   117 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   141 mEq/L
   35.5 %
   16.3 K/uL
        [image002.jpg]
                             [**2106-10-6**]  01:52 PM
                             [**2106-10-6**]  04:53 PM
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
   WBC
   13.6
   13.1
   16.3
   Hct
   32.8
   32.1
   35.5
   Plt
   125
   130
   148
   Cr
   1.1
   1.1
   1.1
   1.0
   TCO2
   21
   20
   20
   19
   19
   21
   Glucose
   161
   111
   422
   117
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:38/31, Alk Phos / T Bili:54/2.0,
   Amylase / Lipase:/103, Differential-Neuts:88.0 %, Lymph:5.5 %, Mono:4.7
   %, Eos:1.6 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:525 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   CT Head: No acute intracranial hemorrhage. Opacification of the left
   maxillary sinus.
   CT chest/abd:
   1. Extensive pancreatitis, with an 3x3 cm  area of non-enhancement in
   the neck of the
   pancreas, highly concerning for necrosis. Extensive peripancreatic
   inflammatory changes; however, no evidence of fluid collection at this
   time.
   2. Findings concerning for right upper lobe pneumonia.
   3. Cholelithiasis, no evidence of acute cholecystitis.
   4. Diverticulosis, no evidence of acute diverticulitis.
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse now with necrotic
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis ) which has
   improved with NIPPV and diuresis.
   >Necrotic Pancreatitis: likely EtOH related, stranding seen on CT scan
   at OSH but no evidence of abscess/pseudocyst.. Notably he has nl
   triglycerides. Lipase values now normalized however with 3x3 cm area of
   necrosis on CT scan (no discrete fluid collection)
   - maintenance fluid resus with D5 (given hypernatremia) and repletion
   of lytes (decreasing fluids given vol overload) will need to follow Na
   closely
   - NPO for now. [**Month (only) 11**] need post pyloric feeding tube vs TPN
   - hold on opiates for now.
   - tight SSI
   - Surgery for management of necrosis
   - Empiric Abx.
   > Hypernatremia: following Na closely in the setting of volume status
   >Fever: Conts low grade fevers, no new clx data, WBC stable, no new
   infiltrate on [**10-7**], lipase normalizing, however necrosis visible on CT
   of the pancreas.
   -Will empirically cover for Vanco and Pip-Tazo
   - Surgery input for management of necrosis
   >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated given inability to tolerate PO
    >Hypoxemia: likely [**1-2**] appropriate volume resuscitation in the setting
   of pancreatitis complicated by splinting and atelectasis now concerning
   for evolution into ARDS.  Concern for progressive hypoxemia, he is at
   high risk for ARDS [**1-2**] pancreatitis. He responded well to diuresis
   yesterday and conts to respond well to BiPAP (marked improving
   oxygentation). Will hold today given rising serum sodium
   - Can use BiPAP intermittently if O2 requirement increases and gentle
   diuresis as needed (but following Na closely)
   - Trial diuresis (20 mg lasix ) with goal of negative 1L
   >EtOH withdrawl/Altered MS:  will follow closely for symptom
   development and work to control symptoms with combination therapy
   (benzos, haldol and potentially labet/clonidine as needed) will D/c
   narcotics for now.  Head CT reveal no intracranial process.
   - monitor symptoms (CIWA)
   - aspiration precautions: HOB elevation
   - thiamine and folate
   - Qtc 474 on [**10-7**] ECG
    other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-6**] 09:58 PM
   18 Gauge - [**2106-10-7**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition ICU
   Total time spent:

2106-10-08 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2106-10-7**] 08:22 AM
 NON-INVASIVE VENTILATION - START [**2106-10-7**] 11:30 AM
 NON-INVASIVE VENTILATION - STOP [**2106-10-7**] 08:05 PM
 NON-INVASIVE VENTILATION - START [**2106-10-7**] 11:00 PM
 ARTERIAL LINE - STOP [**2106-10-8**] 06:41 AM
 FEVER - 101.4
F - [**2106-10-7**] 11:00 AM
   - On bipap during most of daytime/nighttime
   - Vanc/zosyn started; T 101.4 and cultured.
   - Haldol and diazepam requirements:
   - I/O: lasix 20 IV x2
   - More lethargy; no hypercarbia - head CT normal.  Improved and back to
   more agitated.
   - CT chest and abdomen while getting CT'ed to eval pancreas, source of
   fever.  Prelim: ?RUL infiltrate, pancreas with area of probable
   necrosis ~3x3 cm.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-7**] 04:47 PM
   Vancomycin - [**2106-10-7**] 10:09 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-10-7**] 08:15 AM
   Furosemide (Lasix) - [**2106-10-7**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-7**] 10:00 PM
   Diazepam (Valium) - [**2106-10-8**] 02:17 AM
   Haloperidol (Haldol) - [**2106-10-8**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-8**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.7
   HR: 82 (52 - 83) bpm
   BP: 167/95(113) {148/87(100) - 167/95(113)} mmHg
   RR: 33 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,278 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                  2,278 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                  1,020 mL
   Urine:
                                                                  2,470 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -292 mL
                                                                   -942 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 556 (387 - 910) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.43/30/114/18/-2
   Ve: 12.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Mildly distressed, on face tent, responsive intermittently to command,
   but not fully appropriate.  Cannot assess cranial nerves.  Mild
   crackles at bases.  Trace LE edema.  Abd tense, no rebound appreciated,
   mild fluid wave.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   12.8 g/dL
   117 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   141 mEq/L
   35.5 %
   16.3 K/uL
        [image002.jpg]
                             [**2106-10-6**]  01:52 PM
                             [**2106-10-6**]  04:53 PM
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
   WBC
   13.6
   13.1
   16.3
   Hct
   32.8
   32.1
   35.5
   Plt
   125
   130
   148
   Cr
   1.1
   1.1
   1.1
   1.0
   TCO2
   21
   20
   20
   19
   19
   21
   Glucose
   161
   111
   422
   117
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:38/31, Alk Phos / T Bili:54/2.0,
   Amylase / Lipase:/103, Differential-Neuts:88.0 %, Lymph:5.5 %, Mono:4.7
   %, Eos:1.6 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:525 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   hypertension.
   # PANCREATITIS, ACUTE
 elevated [**Last Name (un) 1840**] scores on admit/48hrs, likely
   [**1-2**] ethanol, lipase now improved, +pancreatic necrosis on CT.
    Ultimately need nutrition, but respiratory and mental status limit
   placement of NGT currently.
   - hold on IVF, given recent fluid overload
   - NPO today with IV meds, plan to transition to NGT, possibly Pos [**10-9**]
   - insulin, keep glucoses <150
   # FEVER
 [**10-7**] and [**10-8**] T rise to 101, pan cultures, cxs(-),
   presumptive necrotic pancreatitis, ?developing RUL infiltrate.
   Vanco/Zosyn started [**10-8**], with plan for 10d course.
   - f/u cultures
   - CIS >101, including sputum and urine (to assess for alternative
   sources of fever)
   # HYPOXIA
 fluid overload [**1-2**] resuscitation, ARDS possible,
   splinting.
   - NIPPV prn
   - positioning key
 keep upright due to large abdominal size and
   splinting
   - cxr QAM
   - minimize morphine; try to minimize respiratory suppressants
   - Lasix 20 IV today and stop fluids; CXR more overloaded and
   significantly positive.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES). Last
   drink [**10-1**] or [**10-2**].  Also hypertensive and intermittently agitated.
   - NPO
   - thiamine, folate
   - haldol prn for hallucinations and agitation. Daily ECG.
   - Diazepam on ciwa scale, keep to minimum to optimize mental status
   - BP control with labetalol
   # altered mental status
 likely from above, but note question of
   cirrhosis hx and possible contribution of encephalopathy to clinical
   picture.  Labs, exam, and wet read of U/S does not support chronic
   liver dz, but possible.  Ammonia 53.
   -          Hold morphine; minimize benzos as possible
   -          Consider NGT placement and lactulose (holding off for right
   now, as would interfere with bipap seal if this is needed today)
   -          Consider head CT if persists, though nonfocal exam and no
   clear risk factors for a bleed.
 HYPERTENSION
   -          IV labetalol gtt while NPO.  Treatment of pain and
   withdrawal.
   -          CXR without infiltrate, but certainly at risk for
   aspiration.
   -          Consider reimaging of pancreas to evaluate for
   worsening/necrosis, could consider prophylactic antibiotic coverage if
   evidence of >30% necrosis of pancreas.  Otherwise, little role for
   prophylactic antibiotic therapy.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-10-6**] 09:58 PM
   18 Gauge - [**2106-10-7**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-10-09 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-10-8**] 12:19 PM
 FEVER - 101.5
F - [**2106-10-8**] 11:00 PM
   Surgery did recommend feeding with clears as soon as patient is able.
   If unable to take POs for a few more days, then would recommend TPN.
   They recommend  follow up MRCP in [**1-3**] weeks to evaluate pancreatic
   duct.
   More alert and complaining of pain --> morphine 2 mg x 2
   Remained off bipap
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-7**] 04:47 PM
   Vancomycin - [**2106-10-8**] 08:56 AM
   Piperacillin - [**2106-10-8**] 11:37 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2106-10-8**] 09:19 AM
   Morphine Sulfate - [**2106-10-8**] 03:26 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-8**] 11:37 PM
   Pantoprazole (Protonix) - [**2106-10-8**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.2
   HR: 61 (61 - 92) bpm
   BP: 167/86(107) {131/75(88) - 177/104(120)} mmHg
   RR: 30 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,109 mL
                                                                    373 mL
   PO:
             TF:
   IVF:
                                                                  1,109 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  3,185 mL
                                                                    455 mL
   Urine:
                                                                  3,185 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,076 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   13.2 g/dL
   117 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   141 mEq/L
   37.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2106-10-6**]  04:53 PM
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
                             [**2106-10-9**]  05:11 AM
   WBC
   13.6
   13.1
   16.3
   16.5
   Hct
   32.8
   32.1
   35.5
   37.4
   Plt
   125
   130
   148
   215
   Cr
   1.1
   1.1
   1.1
   1.0
   TCO2
   20
   20
   19
   19
   21
   Glucose
   161
   111
   422
   117
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:38/31, Alk Phos / T Bili:54/2.0,
   Amylase / Lipase:/103, Differential-Neuts:88.0 %, Lymph:5.5 %, Mono:4.7
   %, Eos:1.6 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:525 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   hypertension.
   # PANCREATITIS, ACUTE
 elevated [**Last Name (un) 1840**] scores on admit/48hrs, likely
   [**1-2**] ethanol, lipase now improved, +pancreatic necrosis on CT.
    Ultimately need nutrition, but respiratory and mental status limit
   placement of NGT currently.
   - hold on IVF, given recent fluid overload
   - NPO today with IV meds, plan to transition to NGT, possibly Pos [**10-9**]
   - insulin, keep glucoses <150
   - surgery consult [**10-8**] for assistance with necrotizing pancreatitis,
   ?nutrition/TPN
   # FEVER
 [**10-7**] and [**10-8**] T rise to 101, pan cultures, cxs(-),
   presumptive necrotic pancreatitis, ?developing RUL infiltrate.
   Vanco/Zosyn started [**10-8**], with plan for 10d course.
   - f/u cultures
   - cont vanco, zosyn for 10d course
   - CIS >101, including sputum and urine (to assess for alternative
   sources of fever)
   # HYPOXIA
 fluid overload [**1-2**] resuscitation, ARDS possible,
   splinting.
   - NIPPV prn, keep upright due to large abdominal size and splinting
   - cxr QAM
   - minimize morphine
   - follow for developing pna
   # ALCOHOL WITHDRAWAL/HYPERTENSION - last drink [**10-2**], intermittent htn
   and agitation, as previously noted.  Goal for [**10-8**] into [**10-9**], minimize
   sedating meds and benzos, as tolerated, with goal to improve mental
   status and preclude need for bipap, in order to place NGT [**10-9**].
   - NPO, thiamine, folate
   - PRN valium or Ativan, ciwa
   - daily ecg
   - BP control with labetalol
   # ALTERED MENTAL STATUS - likely from above, with possible cirrhosis,
   encephalopathy.  CT head (-).
   - hold sedating meds
   - as above, [**10-9**] consider NGT placement and lactulose
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-10-6**] 09:58 PM
   18 Gauge - [**2106-10-7**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2106-10-09 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-10-8**] 12:19 PM
 FEVER - 101.5
F - [**2106-10-8**] 11:00 PM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-7**] 04:47 PM
   Vancomycin - [**2106-10-8**] 08:56 AM
   Piperacillin - [**2106-10-8**] 11:37 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2106-10-8**] 09:19 AM
   Morphine Sulfate - [**2106-10-8**] 03:26 PM
   Heparin Sodium (Prophylaxis) - [**2106-10-8**] 11:37 PM
   Pantoprazole (Protonix) - [**2106-10-8**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-9**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.2
   HR: 61 (61 - 92) bpm
   BP: 167/86(107) {131/75(88) - 177/104(120)} mmHg
   RR: 30 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,109 mL
                                                                    375 mL
   PO:
             TF:
   IVF:
                                                                  1,109 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  3,185 mL
                                                                    455 mL
   Urine:
                                                                  3,185 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,076 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: 3L Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : bases), (Breath Sounds:
   Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Tender:
   mid epigast
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli and sternal rub,
   Oriented (to): x1, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.2 g/dL
   215 K/uL
   117 mg/dL
   1.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   16 mg/dL
   112 mEq/L
   141 mEq/L
   37.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2106-10-6**]  04:53 PM
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
                             [**2106-10-9**]  05:11 AM
   WBC
   13.6
   13.1
   16.3
   16.5
   Hct
   32.8
   32.1
   35.5
   37.4
   Plt
   125
   130
   148
   215
   Cr
   1.1
   1.1
   1.1
   1.0
   TCO2
   20
   20
   19
   19
   21
   Glucose
   161
   111
   422
   117
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:38/31, Alk Phos / T Bili:54/2.0,
   Amylase / Lipase:/103, Differential-Neuts:88.0 %, Lymph:5.5 %, Mono:4.7
   %, Eos:1.6 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL, LDH:525 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   CXR [**10-9**]: small b/l pleural effusion increased from [**10-8**]. Low lung
   vols,
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse now with necrotic
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis ) which has
   improved with NIPPV and diuresis.
   >Necrotic Pancreatitis: likely EtOH related, stranding seen on CT scan
   at OSH but no evidence of abscess/pseudocyst.. Notably he has nl
   triglycerides. Has a  3x3 cm area of necrosis on CT scan (no discrete
   fluid collection)
   - maintenance fluid resus with D5 (given hypernatremia) and repletion
   of lytes (decreasing fluids given vol overload) will need to follow Na
   closely
   - Will place NG tube. Also initiate lactulose (to reverse whatever
   component of this may be encephalopathiic)
   - hold on opiates for now.
   - tight SSI
   - Surgery for management of necrosis
   - Empiric Abx.
   - Check lipase in AM.
    > Hypernatremia: following Na closely in the setting of volume status
   - follow other lytes closely
   >Fever: Conts fevers, no new clx data, WBC stable, no new infiltrate on
   [**10-7**], lipase normalizing, however necrosis visible on CT of the
   pancreas.  CT scan of chest ? RUL PNA.  Also with a maxillary sinusitis
   which is being conservatively treated. Currently on empiric coverage.
   Other possibilities include drug fever (but no eos/rash), DVT (no
   asymmetric swelling, may need to consider lower dopplers) and
   gallbladder with cholelithiasis on recent CT scan but alk phos OK.
   -Will empirically cover for Vanco and Pip-Tazo
   - check c. dif
   - cont to culture for spikes
    >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated and switch to PO post NG tube
   placement.
     >Hypoxemia: likely [**1-2**] appropriate volume resuscitation in the
   setting of pancreatitis complicated by splinting and atelectasis now
   concerning for evolution into ARDS.  Concern for progressive hypoxemia,
   he is at high risk for ARDS [**1-2**] pancreatitis. He conts to improve over
   the past 48 hrs with no BiPAP requirement at present.
   - Can use BiPAP intermittently if O2 requirement increases and gentle
   diuresis as needed (but following Na closely)
   - Trial diuresis (20 mg lasix ) with goal of negative 1L
    >EtOH withdrawl/Altered MS:  will follow closely for symptom
   development and work to control symptoms with combination therapy
   (benzos, haldol and potentially labet/clonidine as needed) will D/c
   narcotics for now.  Head CT reveal no intracranial process.
   - monitor symptoms (CIWA). Low dose standing standing olanzapine
   - initiate lactulose
   - aspiration precautions: HOB elevation
   - thiamine and folate
   - Qtc 474 on [**10-7**] ECG
    other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-6**] 09:58 PM
   18 Gauge - [**2106-10-7**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2106-10-10 07:40:00 Physician Resident Progress Note
Chief Complaint: acute pancreatitis
   24 Hour Events:
 STOOL CULTURE - At [**2106-10-9**] 04:00 PM
   NGT placed, tube feeds started and lactulose started - pt pulled, tube
   replaced, pt removed 2nd time.  No NGT currently.
   Now ~60hrs without bipap
   More alert throughout day and night, responsive to commands - one dose
   of valium overnight as became more confused/agitated.
   Given 20mg iv lasix for goal net negative 4am.
   Denies current abdominal pain.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-7**] 04:47 PM
   Vancomycin - [**2106-10-9**] 08:00 PM
   Piperacillin - [**2106-10-10**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-10-9**] 08:00 AM
   Morphine Sulfate - [**2106-10-9**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-10**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 63 (55 - 67) bpm
   BP: 114/92(97) {110/40(71) - 159/94(108)} mmHg
   RR: 30 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,884 mL
                                                                    360 mL
   PO:
             TF:
                                                                    215 mL
                                                                    106 mL
   IVF:
                                                                  1,579 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                  2,110 mL
   Urine:
                                                                  1,865 mL
                                                                  1,760 mL
   NG:
   Stool:
   350 mL
   Drains:
   Balance:
                                                                     19 mL
                                                                 -1,750 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General: Sleepy but easily arousable, oriented to
almost [**Month (only) 1961**]
   HEENT: NC/AT, anicteric sclera, PERRL.
   Chest: CTA bilat   Heart: RRR S1 S2
   Abdomen: +BS, soft, ND, denies tenderness to palpation in epigastrium,
   ?mild RUQ tenderness.
   Extrem: [**12-2**]+ pitting edema.
   Labs / Radiology
   211 K/uL
   13.0 g/dL
   117 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.4 mEq/L
   18 mg/dL
   116 mEq/L
   144 mEq/L
   36.4 %
   17.3 K/uL
        [image002.jpg]
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
                             [**2106-10-9**]  05:11 AM
                             [**2106-10-10**]  04:06 AM
   WBC
   13.1
   16.3
   16.5
   17.3
   Hct
   32.1
   35.5
   37.4
   36.4
   Plt
   130
   148
   215
   211
   Cr
   1.1
   1.1
   1.0
   1.1
   1.1
   TCO2
   20
   20
   19
   19
   21
   Glucose
   111
   422
   117
   124
   117
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:27/28, Alk Phos / T Bili:64/1.2,
   Amylase / Lipase:/236, Differential-Neuts:85.0 %, Band:3.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL,
   LDH:449 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   57 y/oM with h/o HCV and Alcohol abuse, admitted with acute
   pancreatitis likely from acute EtOH ingestion.  Course additionally
   notable for hypoxia requiring NIMV/BIPAP, altered mental status, and
   hypertension.
   # PANCREATITIS, ACUTE
 elevated [**Last Name (un) 1840**] scores on admit/48hrs, likely
   [**1-2**] ethanol, lipase now improved, +pancreatic necrosis on CT.
   NGT placement briefly for nutrition, now out and NPO.  Surgery
   following.
   - replace NGT if not swallowing safely; if okay taking PO then will not
   need.
   - insulin, keep glucoses <150
   # FEVER
 [**10-7**] and [**10-8**] T rise to 101, pan cultures, cxs(-),
   presumptive necrotic pancreatitis. Chest film looks clear but of
   infiltrate on past chest CT.  Vanco/Zosyn started [**10-8**], with plan for
   10d course.  Diff with no eos to suggest drug fever, all culture data
   (-), has been on hep sq so dvt less likely.  Other possibilities
   include cholecystitis (less likely with normal AP, bili downtrending),
   sinusitis (left maxillary opacification of head CT).
   - f/u cultures
   - cont vanco, zosyn for 10d course [**10-16**]
   - CIS >101, including sputum and urine (to assess for alternative
   sources of fever)
   - Will check LENIs today.
   - Afrin and nasal saline for sinusitis.
   - consider reimage abdomen if continues to spike high temps.
   # HYPOXIA
 fluid overload [**1-2**] resuscitation, ARDS possible,
   splinting.  Now not requiring NIPPV as mental status improving.
   -          minimize respiratory suppressants.
   -          Diurese with goal negative 500-1 L today.
   # ALCOHOL WITHDRAWAL/HYPERTENSION - last drink [**10-2**], intermittent htn
   and agitation, as previously noted.  Trying to minimize sedating meds
   and benzos,  with goal to improve mental status and preclude need for
   Bipap.
   - PO olanzipine [**Hospital1 **] small dose (perhaps change to nighttime only dose)
   - PRN valium
   - BP control with PO labetalol
   # ALTERED MENTAL STATUS - likely from above, with possible cirrhosis,
   encephalopathy.  CT head (-).
   - hold sedating meds
   - NGT
? Lactulose  (started yesterday, unclear if needed).  Less
   encephalopathic today.
   ICU Care
   Nutrition:
   Comments: replace NGT vs. trial of PO today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-6**] 09:58 PM
   18 Gauge - [**2106-10-7**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU today

2106-10-10 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2106-10-9**] 04:00 PM
   > NG tube placed and he removed
   > Did NOT require BiPaP
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-7**] 04:47 PM
   Vancomycin - [**2106-10-9**] 08:00 PM
   Piperacillin - [**2106-10-10**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-10-9**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-10**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 63 (55 - 67) bpm
   BP: 114/92(97) {110/40(71) - 159/94(108)} mmHg
   RR: 30 (19 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,884 mL
                                                                    364 mL
   PO:
             TF:
                                                                    215 mL
                                                                    106 mL
   IVF:
                                                                  1,579 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                  2,110 mL
   Urine:
                                                                  1,865 mL
                                                                  1,760 mL
   NG:
   Stool:
   350 mL
   Drains:
   Balance:
                                                                     19 mL
                                                                 -1,746 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (3L)
   SpO2: 95%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilateral)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   mildly Tender: mildly tender mid epigat. (abd softer)
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Normal. His
   level of orientation has continued to fluctuate.
   Labs / Radiology
   13.0 g/dL
   211 K/uL
   117 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.4 mEq/L
   18 mg/dL
   116 mEq/L
   144 mEq/L
   36.4 %
   17.3 K/uL
        [image002.jpg]
                             [**2106-10-6**]  10:29 PM
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
                             [**2106-10-9**]  05:11 AM
                             [**2106-10-10**]  04:06 AM
   WBC
   13.1
   16.3
   16.5
   17.3
   Hct
   32.1
   35.5
   37.4
   36.4
   Plt
   130
   148
   215
   211
   Cr
   1.1
   1.1
   1.0
   1.1
   1.1
   TCO2
   20
   20
   19
   19
   21
   Glucose
   111
   422
   117
   124
   117
   Other labs: PT / PTT / INR:13.5/24.9/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:27/28, Alk Phos / T Bili:64/1.2,
   Amylase / Lipase:/236, Differential-Neuts:85.0 %, Band:3.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL,
   LDH:449 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
[**2106-10-9**] 4:15 pm STOOL
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Pending):
   [**10-9**] Blood clx: ngtd
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse now with necrotic
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis ) which has
   improved with NIPPV and diuresis. His course has also been complicated
   by EtOH withdrawl which has slowly been clearing.
    >Necrotic Pancreatitis: likely EtOH related, stranding seen on CT scan
   at OSH but no evidence of abscess/pseudocyst.. Now  has a  3x3 cm area
   of necrosis on CT scan (no discrete fluid collection) and no surgical
   options for now.  Lipase was OK after briefly getting tubes feeds on
   [**10-9**].
   - maintenance fluid resus with D5 (given hypernatremia) and repletion
   of lytes (decreasing fluids given vol overload) will need to follow Na
   closely. Change to free water after NG tube.
   - Will RE-place NG tube if his MS does not improve. Cont lactulose (to
   reverse whatever component of this may be encephalopathiic)
   - hold on opiates for now.
   - tight SSI
   - Empiric Abx.
   - Check lipase in AM.
    > Hypernatremia: following Na closely in the setting of volume status
   - follow other lytes closely
   >Fever: Conts fevers, no new clx data, WBC stable, no new infiltrate on
   [**10-7**], lipase normalizing, however necrosis visible on CT of the
   pancreas.  CT scan of chest ? RUL PNA.  Also with a left maxillary
   sinusitis which is being conservatively treated. Currently on empiric
   coverage. Other possibilities include drug fever (but no eos/rash), DVT
   (no asymmetric swelling) and gallbladder with cholelithiasis on recent
   CT scan but alk phos OK.
   -Will cont Vanco and Pip-Tazo
   - check c. dif (pending)
   - cont to culture for spikes
   -Check lower ext U/S for DVT.
   - [**Month (only) 11**] need to have pancreas imaged again (? Evolving necrosis in the
   pancreas with abscess formation)
    >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated and switch to PO post NG tube
   placement.
    >Hypoxemia: likely [**1-2**] appropriate volume resuscitation in the setting
   of pancreatitis complicated by splinting and atelectasis.  He conts to
   improve over the past 48 hrs with no BiPAP requirement at present.
   - Can use BiPAP intermittently if O2 requirement increases and gentle
   diuresis as needed (but following Na closely)
   - Cont to favor gently net negative fluid balance
    >EtOH withdrawl/Altered MS: slowly improving from a withdrawl
   perspective over the last two days. Now alert and oriented x 2.
   - monitor symptoms (CIWA). Low dose standing standing olanzapine
   - initiate lactulose, we will trial PO and if he can not take re-place
   NG (on the right side).
   - aspiration precautions: HOB elevation
   - thiamine and folate
   - lytes repletion
     other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NG tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-10-6**] 09:58 PM
   18 Gauge - [**2106-10-7**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Known lastname 655**] with Dr. [**First Name (STitle) 1130**], whose note reflects my
   input.  I would add/emphasize that this 57-year-old man with
   pancreatitis, alcohol withdrawal, and respiratory distress has ongoing
   low-grade fevers and substantial leucocytosis (to 17).  On exam, he is
   now more oriented.  Abdomen is soft and nontender.
   Main issue is whether his fevers represent infected pancreatic
   necrosis.  Although he is at the right time course for this, his
   clinical picture seems to be improving.  We will continue antibiotics
   for now.  Repeat CT in next day or so if fevers and leucocytosis
   persist.  Would consider FNA to exclude infected necrosis if area
   persists on imaging.
   Other issues as per Dr. [**First Name (STitle) 1130**]
s note.
   He is critically ill.  30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2106-10-10**] 22:28 ------

2106-10-11 07:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2106-10-10**] 11:00 AM
   LENI; check for DVT's; ? infection source.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2106-10-10**] 08:00 AM
   Vancomycin - [**2106-10-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-10-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-10-10**] 02:00 PM
   Morphine Sulfate - [**2106-10-11**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-10-11**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 62 (56 - 89) bpm
   BP: 136/80(94) {117/59(72) - 156/102(109)} mmHg
   RR: 19 (18 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,992 mL
                                                                    174 mL
   PO:
                                                                    880 mL
             TF:
                                                                    106 mL
   IVF:
                                                                  1,956 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                    560 mL
   Urine:
                                                                  3,135 mL
                                                                    560 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -493 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   decreasingly tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.5 g/dL
   277 K/uL
   116 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   19 mg/dL
   114 mEq/L
   144 mEq/L
   36.2 %
   20.1 K/uL
        [image002.jpg]
                             [**2106-10-7**]  04:21 AM
                             [**2106-10-7**]  04:30 AM
                             [**2106-10-7**]  10:38 AM
                             [**2106-10-7**]  12:35 PM
                             [**2106-10-7**]  04:30 PM
                             [**2106-10-7**]  05:31 PM
                             [**2106-10-8**]  04:09 AM
                             [**2106-10-9**]  05:11 AM
                             [**2106-10-10**]  04:06 AM
                            [**2106-10-11**]  05:00 AM
   WBC
   13.1
   16.3
   16.5
   17.3
   20.1
   Hct
   32.1
   35.5
   37.4
   36.4
   36.2
   Plt
   130
   148
   215
   211
   277
   Cr
   1.1
   1.1
   1.0
   1.1
   1.1
   1.1
   TCO2
   20
   19
   19
   21
   Glucose
   111
   422
   117
   124
   117
   116
   Other labs: PT / PTT / INR:13.8/22.8/1.2, CK / CKMB /
   Troponin-T:177/6/<0.01, ALT / AST:26/31, Alk Phos / T Bili:67/1.1,
   Amylase / Lipase:/192, Differential-Neuts:85.0 %, Band:3.0 %, Lymph:5.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:0.6 mmol/L, Albumin:3.2 g/dL,
   LDH:387 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   57 y/o male with hist of Hep C and heavy EtOH abuse now with necrotic
   pancreatitis (most likely ETOH related) with lipase of 3000 at OSH,
   hypoxemia (secondary to hypoventilation/ atelectasis ) which has
   improved with NIPPV and diuresis. His course has also been complicated
   by EtOH withdrawl which has slowly been clearing.
     >Necrotic Pancreatitis: likely EtOH related, stranding seen on CT
   scan at OSH but no evidence of abscess/pseudocyst.. Now  has a  3x3 cm
   area of necrosis on CT scan (no discrete fluid collection) and no
   surgical options for now.  Lipase was OK after briefly getting tubes
   feeds on [**10-9**].
   - maintenance fluid resus with D5 (given hypernatremia) and repletion
   of lytes (decreasing fluids given vol overload) will need to follow Na
   closely. Change to free water after NG tube.
   - tight SSI
   - Empiric Abx.
   >Fever: Conts fevers, no new clx data, WBC stable, no new infiltrate on
   [**10-7**], lipase normalizing, however necrosis visible on CT of the
   pancreas.  CT scan of chest ? RUL PNA.  Also with a left maxillary
   sinusitis which is being conservatively treated. Currently on empiric
   coverage. Other possibilities include drug fever (but no eos/rash), DVT
   (no asymmetric swelling) and gallbladder with cholelithiasis on recent
   CT scan but alk phos OK.  Now with new right knee pain, unable to
   extend. Concerning for joint effusion/infection. This could be gout or
   it could also be infected. We will need to perform a joint effusion.
   - Arthrocentesis of the right knee and evaluate for gout vs infection.
   -Will cont Vanco and Pip-Tazo
   - Repeat CT scan of the abd with pancreatic protocol.
   - check c. dif (pending)
   - cont to culture for spikes
   -Check lower ext U/S for DVT.
   - [**Month (only) 11**] need to have pancreas imaged again (? Evolving necrosis in the
   pancreas with abscess formation)
    >HTN: tolerate SBP <170mmHg
   - wean labetalol gtt as tolerated and switch to PO post NG tube
   placement.
    >Hypoxemia: likely [**1-2**] appropriate volume resuscitation in the setting
   of pancreatitis complicated by splinting and atelectasis.  He conts to
   improve over the past 48 hrs with no BiPAP requirement at present.
   - Can use BiPAP intermittently if O2 requirement increases and gentle
   diuresis as needed (but following Na closely)
   - Cont to favor gently net negative fluid balance
    >EtOH withdrawl/Altered MS: slowly improving from a withdrawl
   perspective over the last two days. Now alert and oriented x 2.
   - monitor symptoms (CIWA). Low dose standing standing olanzapine
   - initiate lactulose, we will trial PO and if he can not take re-place
   NG (on the right side).
   - aspiration precautions: HOB elevation
   - thiamine and folate
   - lytes repletion
     other issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: PO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2106-10-7**] 11:00 AM
   20 Gauge - [**2106-10-10**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes